US04479953
p-Chlorobenzoic acid 2-[(3-amino-5,6-dichloropyrazinyl)methylene]hydrazide by the reaction of p-chlorobenzoyl chloride with hydrazine to form p-chlorobenzoylhydrazine, followed by the reaction of the latter with 3-amino-5,6-dichloropyrazinaldehyde.

reactant | p-Chlorobenzoic acid 2-[(3-amino-5,6-dichloropyrazinyl)methylene]hydrazide | NC=1C(=NC(=C(N1)Cl)Cl)C=NNC(C1=CC=C(C=C1)Cl)=O | C12H8Cl3N5O
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrazine | NN | H4N2
product | p-chlorobenzoylhydrazine | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
